US09403798B2
4-[4-(4-Fluorophenyl)-4-hydroxypiperidin-1-yl]-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one
4-[4-(4-Fluorophenyl)-4-hydroxypiperidin-1-yl]-1,3,5-triazin-2(1H)-one (100 mg, 0.34 mmol) synthesized in Reference Synthesis Example 14 and [5-(trifluoromethyl)thiophen-2-yl]methyl 4-methylbenzenesulfonate (558 mg, 0.67 mmol) synthesized in Reference Synthesis Example 51 were used to obtain the title compound (20 mg, yield 13%) by synthesis in a similar manner to Reference Synthesis Example 8.

reactant | 4-[4-(4-Fluorophenyl)-4-hydroxypiperidin-1-yl]-1,3,5-triazin-2(1H)-one | 0.34 mmol, 100 mg | FC1=CC=C(C=C1)C1(CCN(CC1)C1=NC(NC=N1)=O)O | C14H15FN4O2
reactant | [5-(trifluoromethyl)thiophen-2-yl]methyl 4-methylbenzenesulfonate | 0.67 mmol, 558 mg | CC1=CC=C(C=C1)S(=O)(=O)OCC=1SC(=CC1)C(F)(F)F | C13H11F3O3S2
product | 4-[4-(4-Fluorophenyl)-4-hydroxypiperidin-1-yl]-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | 20 mg, yield 13% | FC1=CC=C(C=C1)C1(CCN(CC1)C1=NC(N(C=N1)CC=1SC(=CC1)C(F)(F)F)=O)O | C20H18F4N4O2S
